US08859504B2
Synthesis of (R)-2-hydroxy-2-((R)-2-((R)-3-methyl-1-((S)-3-phenyl-2-(pyrazine-2-carboxamido)propanamido)butyl)-5-oxo-1,3,2-dioxaborolan-4-yl)acetic acid (I-22)
A mixture of N,N′,N″-(boroxin-2,4,6-triyltris{[(1R)-3-methylbutane-1,1-diyl]imino[(2S)-1-oxo-3-phenylpropane-1,2-diyl]})tripyrazine-2-carboxamide (0.270 g, 0.246 mmol) and L-tartaric acid (149.5 mg, 0.33 mmol) were mixed in acetone (3 mL). The mixture was heated to form a solution. The solution was cooled uncontrolled until the internal temperature was about 25° C. Heptane (2.5 mL) was added. White solid precipitated out and the resultant slurry was agitated at ambient temperature for 1.5 h. The slurry was filtered to collect solid (R)-2-hydroxy-2-((R)-2-((R)-3-methyl-1-((S)-3-phenyl-2-(pyrazine-2-carboxamido)propanamido)butyl)-5-oxo-1,3,2-dioxaborolan-4-yl)acetic acid (0.388 g) which also contained a dimeric species. MS (m/z) in CH3CN: [M+H] calculated for C23H28BN4O8, 499.2000. found, 499.2.

reactant | N,N′,N″-(boroxin-2,4,6-triyltris{[(1R)-3-methylbutane-1,1-diyl]imino[(2S)-1-oxo-3-phenylpropane-1,2-diyl]})tripyrazine-2-carboxamide | 0.246 mmol, 0.270 g | O1B(OB(OB1[C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O)[C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O)[C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O | C57H69B3N12O9
reactant | L-tartaric acid | 0.33 mmol, 149.5 mg | C([C@H](O)[C@@H](O)C(=O)O)(=O)O | C4H6O6
reactant | Heptane | 2.5 mL | CCCCCCC | C7H16
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | (R)-2-hydroxy-2-((R)-2-((R)-3-methyl-1-((S)-3-phenyl-2-(pyrazine-2-carboxamido)propanamido)butyl)-5-oxo-1,3,2-dioxaborolan-4-yl)acetic acid | O[C@@H](C(=O)O)[C@H]1OB(OC1=O)[C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O | C23H27BN4O8
